US07696200B2
Reaction of 3-(5-chloro-2-methoxy-benzenesulfonyl)-7-methyl-2,3-dihydro-benzooxazole-5-carboxylic acid with ethyl 4-aminobenzoate in analogy with example 30, step 4 gave 4-{[3-(5-chloro-2-methoxy-benzenesulfonyl)-7-methyl-2,3-dihydro-benzooxazole-5-carbonyl]-amino}-benzoic acid ethyl ester. Orange solid, MS (ISP)=530.9 (M+H)+.

reactant | 3-(5-chloro-2-methoxy-benzenesulfonyl)-7-methyl-2,3-dihydro-benzooxazole-5-carboxylic acid | ClC=1C=CC(=C(C1)S(=O)(=O)N1COC2=C1C=C(C=C2C)C(=O)O)OC | C16H14ClNO6S
reactant | ethyl 4-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
product | 4-{[3-(5-chloro-2-methoxy-benzenesulfonyl)-7-methyl-2,3-dihydro-benzooxazole-5-carbonyl]-amino}-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)NC(=O)C=1C=C(C2=C(N(CO2)S(=O)(=O)C2=C(C=CC(=C2)Cl)OC)C1)C)=O | C25H23ClN2O7S
